US06518283B1
3-Butyl-4-methoxy-3-cyclobutene-1,2-dione
n-BuLi (8.13 ml of a 1.6M solution in hexane, 13 mmol) was added slowly to a solution of 3,4-dimethoxy-3-cyclobutene-1,2-dione (1.42 g, 10 mmol) in THF (100 ml) at −78°. After 2 h, trifluoroacetic anhydride (2.12 ml, 15 mmol) was added. After a further 30 min the cold solution was poured into NH4Cl(aq) (100 ml) and EtOAc (100 ml) and stirred well. The aqueous layer was extracted with EtOAc. The organic extracts were washed with brine, dried (Na2SO4) and concentrated in vacuo. Column chromatography (SiO2, EtOAc/hexane, 30:70) gave the title compound as a yellow oil (803 mg, 48%). δH (CDCl3) 4.42 (3H, s), 2.60 (2H, t, J 7.6 Hz), 1.71-1.61 (2H, m), 1.44-1.32 (2H, m), 0.94 (3H, t, J 7.3 Hz). m/z (ES+, 70V) 169 (MH+).

reactant | n-BuLi | [Li]CCCC
reactant | 3,4-dimethoxy-3-cyclobutene-1,2-dione | 10 mmol, 1.42 g | COC=1C(C(C1OC)=O)=O | C6H6O4
reactant | trifluoroacetic anhydride | 15 mmol, 2.12 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | NH4Cl | 100 ml | [NH4+].[Cl-]
solvent | hexane | CCCCCC | C6H14
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | 3-Butyl-4-methoxy-3-cyclobutene-1,2-dione | 803 mg, 48% | C(CCC)C=1C(C(C1OC)=O)=O | C9H12O3
